US07517875B2
After dissolving 4-aminomethyl-piperidine-1-carboxylic acid tert-butyl ester (3.18 g, 14.8 mmol) in acetonitrile (20 mL), a suspension of thiocarbonyldiimidazole (3.17 g, 17.8 mmol) and imidazole (302 mg, 4.45 mmol) in acetonitrile (30 mL) was added dropwise thereto in an ice bath. The temperature was raised to room temperature, the mixture was stirred for 90 minutes, o-phenylenediamine (1.93 g, 17.8 mmol) was added thereto, and the mixture was stirred at 50° C. for 2 hours. Diisopropylcarbodiimide (3.4 mL, 22.2 mmol) was further added, and the mixture was stirred at 80° C. for 3 hours. The mixture was cooled, concentrated under reduced pressure, and then dissolved in ethyl acetate (200 mL) and washed with water (100 mL×2 times) and brine (100 mL). It was then dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The concentrated residue was purified by silica gel column chromatography (dichloromethane/methanol=19/1 dichloromethane/methanol/triethylamine=10/1/1) to obtain 4-[(1H-benzimidazol-2-ylamino)-methyl]-piperidine-1-carboxylic acid tert-butyl ester.

reactant | 4-aminomethyl-piperidine-1-carboxylic acid tert-butyl ester | 14.8 mmol, 3.18 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CN | C11H22N2O2
reactant | thiocarbonyldiimidazole | 17.8 mmol, 3.17 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | imidazole | 4.45 mmol, 302 mg | N1C=NC=C1 | C3H4N2
reactant | o-phenylenediamine | 17.8 mmol, 1.93 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | Diisopropylcarbodiimide | 22.2 mmol, 3.4 mL | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 4-[(1H-benzimidazol-2-ylamino)-methyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC1=NC2=C(N1)C=CC=C2 | C18H26N4O2
